US08557801B2
2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-amine
To a stirred solution of 5-methylpyridin-2-amine (260 mg, 2.4 mmol) in 20 mL of MeOH was added 4-fluorobenzaldehyde (0.26 mL, 2.40 mmol), and followed by 1.0 N HClO4 in MeOH (0.20 mL, 0.20 mmol). The reaction mixture was stirred at room temperature for 0.5 hour which was followed by addition of 2-isocyano-2-methylpropane (0.23 mL, 2.0 mmol). The stirring was continued at room temperature overnight. HPLC/MS test showed that the desired product Reference Compound 76-1 was a major peak.

reactant | 5-methylpyridin-2-amine | 2.4 mmol, 260 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | 4-fluorobenzaldehyde | 2.40 mmol, 0.26 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-isocyano-2-methylpropane | 2.0 mmol, 0.23 mL | [N+](#[C-])C(C)(C)C | C5H9N
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 0.20 mmol, 0.20 mL | CO | CH4O
product | 2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-amine | FC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1N | C14H12FN3
